US04900352
Preparation of 3,5-dichloro-2-(4,6-dimethoxypyrimidin-2-yl)oxy benzaldehyde (Compound No. 73)
3,5-Dichloro-2-(4,6-dimethoxypyrimidin-2-yl)oxy benzaldehyde dimethylacetal (2.1 g) was dissolved in acetic acid (50 ml), and then water (10 ml) and 35% hydrochloric acid (1 ml) were added thereto. The mixture was reacted at room temperature for 6 hours. The reaction mixture was poured into water, and extracted with toluene. The extract was washed with a 2% sodium hydroxide aqueous solution, and further washed 3 times with water. The toluene phase was dried, and concentrated under reduced pressure. The crystal thus obtained was recrystallized from a mixture of carbontetrachloride and hexane to obtain the above identified compound as a white crystal (1.0 g). (Melting point: 132°-133° C.)

reactant | 3,5-Dichloro-2-(4,6-dimethoxypyrimidin-2-yl)oxy benzaldehyde dimethylacetal | 2.1 g | COC(C1=C(C(=CC(=C1)Cl)Cl)OC1=NC(=CC(=N1)OC)OC)OC | C15H16Cl2N2O5
reactant | water | 10 ml | O | H2O
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 3,5-dichloro-2-(4,6-dimethoxypyrimidin-2-yl)oxy benzaldehyde | ClC=1C(=C(C=O)C=C(C1)Cl)OC1=NC(=CC(=N1)OC)OC | C13H10Cl2N2O4
